US07094908B2
Methyl 3-(1,3-dioxo-1,3-dihydro-benzo[e]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.45 g, 58%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.40 g, 2.11 mmol) and 1,2-naphthalic anhydride (0.55 g, 2.75 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 2.11 mmol, 0.40 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | 1,2-naphthalic anhydride | 2.75 mmol, 0.55 g | C1=CC=C2C(=C1)C=CC3=C2C(=O)OC3=O | C12H6O3
product | Methyl 3-(1,3-dioxo-1,3-dihydro-benzo[e]isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | O=C1N(C(C=2C=CC3=C(C12)C=CC=C3)=O)CC(C(=O)OC)C3(OCCO3)C | C20H19NO6
